### PR TITLE
[Merged by Bors] - feat(Tactic): `linarith` and `rify` for NNReal 

### PR DESCRIPTION
**Pull request by DavidLedvinka**

### CODE REVIEW

File: Mathlib/Tactic/Linarith/Preprocessing.lean [hunk 1]
```diff
@@ -389,12 +389,26 @@ def removeNe : GlobalBranchingPreprocessor where
   transform := removeNe_aux
 end removeNe
 
+/-- Definition overided in `Mathlib.Tactic.Linarith.NNRealPreprocessor`. -/
```
Comment (grunweg) [inline Mathlib/Tactic/Linarith/Preprocessing.lean]: "overridden", right?

File: MathlibTest/Rify.lean [hunk 2]
```diff
@@ -36,3 +36,41 @@ example {n k : ℕ} (h₁ : 8 ≤ n) (h₂ : 2 * k > n) (h₃ : k + 1 < n) :
   have f₂ : n - (k + 1) ≤ n := by rify [f₁]; linarith
   rify [f₁, f₂] at *
   linarith
+
+/- ℝ≥0 Tests -/
+
+open NNReal
```
Comment (hrmacbeth) [inline MathlibTest/Rify.lean:43]: Can you include some tests which don't use nnreal-subtraction? For example,
```lean
example {a b c : ℝ≥0} (h1 : 2 * a < b + 1) (h2 : b ≤ c) : a < (c + 1) / 2 := by linarith
```

File: Mathlib/Tactic/Linarith/NNRealPreprocessor.lean [hunk 3]
```diff
@@ -0,0 +1,81 @@
...
+      try
+        let (_, _, a, b) ← (← inferType h).ineq?
+        let getIndex (e : Expr) : AtomM ℕ := return (← AtomM.addAtom e).1
+        let indices_a ← (getNNRealComparisons a).mapM getIndex
+        let indices_b ← (getNNRealComparisons b).mapM getIndex
+        pure <| (es.insertMany indices_a).insertMany indices_b
+      catch _ => pure es
+    let atoms : Array Expr := (← get).atoms
+    let nonneg_pfs : List Expr ← nonnegs.toList.filterMapM fun n => do
+      mk_toReal_nonneg_prf atoms[n]!
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Linarith/NNRealPreprocessor.lean]: I believe this logic can be streamlined to ditch the `TreeSet`, since (unlike the Nat case) you don't need to track the types into which coercion happens. I think this works:
```suggestion
    let atoms : List Expr ← withNewMCtxDepth <| AtomM.run .reducible do
      for h in l do
        let (_, _, a, b) ← (← inferType h).ineq?
        discard <| (getNNRealComparisons a).mapM AtomM.addAtom
        discard <| (getNNRealComparisons b).mapM AtomM.addAtom
      pure (← get).atoms.toList
    let nonneg_pfs : List Expr ← atoms.filterMapM mk_toReal_nonneg_prf
```

File: Mathlib/Tactic/Linarith/Preprocessing.lean [hunk 4]
```diff
@@ -389,12 +389,24 @@ def removeNe : GlobalBranchingPreprocessor where
...
+/-- Definition overidden in `Mathlib.Tactic.Linarith.NNRealPreprocessor`. -/
+initialize nnRealToRealTransform : IO.Ref (MVarId → List Expr → MetaM (List Branch)) ← do
+  IO.mkRef (fun g l ↦ pure [(g, l)])
+
+/--
+If `h` is an equality or inequality between NNReals, `natToNNReal` lifts this inequality to the
+NNReals. It also adds the facts that the reals involved are nonnegative. To avoid adding the same
+nonnegativity facts many times, it is a global preprocessor. This preprocessor does nothing unless
+`Mathlib.Tactic.Linarith.NNRealPreprocessor` is imported -/
+def nnRealToReal : GlobalBranchingPreprocessor where
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Linarith/Preprocessing.lean]: Would the capitalisation convention name this `nnrealToReal`? (not sure)

Comment (DavidLedvinka) [reply Mathlib/Tactic/Linarith/Preprocessing.lean]: I think you are right

File: Mathlib/Tactic/Linarith/NNRealPreprocessor.lean [hunk 5]
```diff
@@ -0,0 +1,76 @@
...
+/-- If `e` is of the form `((x : ℝ≥0) : ℝ)`, `NNReal.toReal e` returns `x`. -/
+def isNNRealtoReal (e : Expr) : Option Expr :=
+  match e with
+  | .app (.const ``NNReal.toReal _) n => some n
+  | _ => none
+
+/--
+`getNNRealComparisons e` returns a list of all subexpressions of `e` of the form `(x : ℝ)`.
+-/
+partial def getNNRealComparisons (e : Expr) : List Expr :=
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Linarith/NNRealPreprocessor.lean]: I think the name of this method is misleading, given the functionality. (I know this was the name in the nat preprocessor you're modelling on, but we might as well do better here.) Maybe `getNNRealCoes`? Or any better idea you have.

File: MathlibTest/Rify.lean [hunk 6]
```diff
@@ -1,5 +1,5 @@
-import Mathlib.Tactic.Linarith
 import Mathlib.Tactic.Rify
+import Mathlib.Tactic.Linarith.NNRealPreprocessor
```
Comment (hrmacbeth) [inline MathlibTest/Rify.lean]: Can drop this import now?

File: Mathlib/Tactic/Linarith/NNRealPreprocessor.lean [hunk 7]
```diff
@@ -0,0 +1,83 @@
...
+
+initialize nnrealToRealTransform.set fun l => do
+  let l ← l.mapM fun e => do
+    let t ← whnfR (← instantiateMVars (← inferType e))
+    if ← isNNRealProp t then
+      let (e', t') ← rifyProof e t
+      if ← succeeds t'.ineqOrNotIneq? then
+        pure e'
+      else
+        pure e
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Linarith/NNRealPreprocessor.lean]: I'm guessing that the reason we have this logic (rather than just
```suggestion
      pure e'
````
) is that it could be possible for `rifyProof e t` to simplify `e` to `True`/`False`. Can you come up with a test case where that actually happens? Or even better, where it happens and renders an otherwise solvable `linarith` unsolvable?

(Fair warning, I can't think of such a test case; I'm wondering if this logic is unnecessary.)

File: Mathlib/Tactic/Rify.lean [hunk 8]
```diff
@@ -86,4 +101,16 @@ macro_rules
...
+@[rify_simps] lemma toReal_le (a b : ℝ≥0) : a ≤ b ↔ (a : ℝ) ≤ (b : ℝ) := by simp
+@[rify_simps] lemma toReal_lt (a b : ℝ≥0) : a < b ↔ (a : ℝ) < (b : ℝ) := by simp
+@[rify_simps] lemma toReal_ne (a b : ℝ≥0) : a ≠ b ↔ (a : ℝ) ≠ (b : ℝ) := by simp
+
+@[norm_cast] theorem NNReal.toNNReal_sub_of_add_le {a b c : ℝ≥0} (h : a + c ≤ b) :
+    ((b - a : ℝ≥0) : ℝ) = b - a :=
+  NNReal.coe_sub <| (self_le_add_right _ c).trans h
+
+@[norm_cast] theorem NNReal.toNNReal_sub_of_lt {a b : ℝ≥0} (h : a < b) :
+    ((b - a : ℝ≥0) : ℝ) = b - a := NNReal.coe_sub h.le
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Rify.lean]: If I understand correctly, you could put these lemmas in `Mathlib.Data.NNReal.Basic`, and then you wouldn't need to alter the imports of this file.

File: Mathlib/Tactic/Linarith/NNRealPreprocessor.lean (hunk 7 above)
Comment (DavidLedvinka) [reply Mathlib/Tactic/Linarith/NNRealPreprocessor.lean]: Yeah the documentation of `natToInt` explains this is why they did this. And I was able to observe this behaviour, but I also agree that I would be suprised if it can break linarith.

File: Mathlib/Tactic/Linarith/Preprocessing.lean [hunk 9]
```diff
@@ -389,12 +389,22 @@ def removeNe : GlobalBranchingPreprocessor where
   transform := removeNe_aux
 end removeNe
 
+/-- Definition overidden in `Mathlib.Tactic.Linarith.NNRealPreprocessor`. -/
+initialize nnrealToRealTransform : IO.Ref (List Expr → MetaM (List Expr)) ← IO.mkRef pure
+/--
+If `h` is an equality or inequality between NNReals, `natToNNReal` lifts this inequality to the
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Linarith/Preprocessing.lean]:
```suggestion
If `h` is an equality or inequality between NNReals, `nnrealToReal` lifts this inequality to the
```

File: Mathlib/Tactic/Rify.lean (hunk 8 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/Rify.lean]: (There are a few more lemmas you would need to move before you can restore the original imports.)

File: Mathlib/Data/NNReal/Defs.lean [hunk 10]
```diff
@@ -216,6 +216,15 @@ protected theorem coe_two : ((2 : ℝ≥0) : ℝ) = 2 := rfl
...
   max_eq_left <| le_sub_comm.2 <| by simp [show (r₂ : ℝ) ≤ r₁ from h]
 
+@[norm_cast]
+protected theorem coe_sub_of_add_le {a b c : ℝ≥0} (h : a + c ≤ b) :
+    ((b - a : ℝ≥0) : ℝ) = b - a :=
+  NNReal.coe_sub <| (self_le_add_right _ c).trans h
+
+@[norm_cast]
+protected theorem coe_sub_of_lt {a b : ℝ≥0} (h : a < b) :
+    ((b - a : ℝ≥0) : ℝ) = b - a := NNReal.coe_sub h.le
```
Comment (hrmacbeth) [inline Mathlib/Data/NNReal/Defs.lean]: I think these should go in `Basic` too. (AFAIK lemmas don't go in `Defs` unless it's hard for a theory to proceed without them.)

File: Mathlib/Tactic/Rify.lean [hunk 11]
```diff
@@ -7,12 +7,13 @@ module
 
 public import Mathlib.Data.Rat.Cast.Order
 public import Mathlib.Data.Real.Basic
-public import Mathlib.Tactic.Qify -- shake: keep (for `@[qify_simps]`)
+public import Mathlib.Tactic.Zify
+public import Mathlib.Tactic.Qify
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Rify.lean]: I suggest just reverting these import lines to their original state

File: MathlibTest/Rify.lean (hunk 6 above)
Comment (hrmacbeth) [reply MathlibTest/Rify.lean]: (Likely you still need `Mathlib.Data.NNReal.Basic` as an import, though, but that is lighter-weight.)

File: Mathlib/Tactic/Rify.lean (hunk 11 above)
Comment (DavidLedvinka) [reply Mathlib/Tactic/Rify.lean]: Do you mean reverse the order? (I guess I should put back the comment at least) I need Zify for `Zify.applySimpResultToProp'`. Perhaps it could be moved to a Tactic helper function file though?

File: MathlibTest/Rify.lean (hunk 6 above)
Comment (DavidLedvinka) [reply MathlibTest/Rify.lean]: It breaks the last example, but its probably not necessary anyway.

File: MathlibTest/Linarith/Basic.lean
Comment (joneugster) [inline MathlibTest/Linarith/Basic.lean:1]: If we're already renaming, why not `MathlibTest/Linarith/Linarith.lean`?

File: Mathlib/Tactic/Rify.lean [hunk 12]
```diff
@@ -78,11 +79,32 @@ macro_rules
...
+  let (r, _) ← simp prop (← mkRifyContext)
+  Zify.applySimpResultToProp' proof prop r
+
 @[rify_simps] lemma ratCast_eq (a b : ℚ) : a = b ↔ (a : ℝ) = (b : ℝ) := by simp
 @[rify_simps] lemma ratCast_le (a b : ℚ) : a ≤ b ↔ (a : ℝ) ≤ (b : ℝ) := by simp
 @[rify_simps] lemma ratCast_lt (a b : ℚ) : a < b ↔ (a : ℝ) < (b : ℝ) := by simp
 @[rify_simps] lemma ratCast_ne (a b : ℚ) : a ≠ b ↔ (a : ℝ) ≠ (b : ℝ) := by simp
 
+/- The following lemmas are included in `Mathlib.Data.NNReal.Basic` (so that it
+doesn't need to be imported when using this tactic for only `ℕ, ℤ`, or `ℚ`)
```
Comment (joneugster) [inline Mathlib/Tactic/Rify.lean]:
```suggestion
/- The following lemmas are included in `Mathlib.Data.NNReal.Basic` (so that they
don't need to be imported when using this tactic for `ℕ, ℤ`, or `ℚ`)
```

File: Mathlib/Data/NNReal/Basic.lean [hunk 13]
```diff
@@ -139,6 +139,15 @@ typeclass. For lemmas about subtraction and addition see lemmas about `OrderedSu
...
 
+@[norm_cast]
+protected theorem coe_sub_of_add_le {a b c : ℝ≥0} (h : a + c ≤ b) :
+    ((b - a : ℝ≥0) : ℝ) = b - a :=
+  NNReal.coe_sub <| (self_le_add_right _ c).trans h
+
+@[norm_cast]
+protected theorem coe_sub_of_lt {a b : ℝ≥0} (h : a < b) :
+    ((b - a : ℝ≥0) : ℝ) = b - a := NNReal.coe_sub h.le
+
```
Comment (joneugster) [inline Mathlib/Data/NNReal/Basic.lean]: do you need these for the tactic?

File: Mathlib/Tactic/Linarith/NNRealPreprocessor.lean [hunk 14]
```diff
@@ -0,0 +1,79 @@
...
+public meta import Mathlib.Tactic.Linarith
+public meta import Mathlib.Tactic.Rify
+public import Mathlib.Data.NNReal.Basic
+
+/-!
+# NNReal linarith preprocessing
+
+This file contains a `linarith` preprocessor for converting (in)equalities in `ℝ≥0` to `ℝ`.
+
+By overriding the behaviour of the placeholder preprocessor `nnrealToReal` (which does nothing
```
Comment (joneugster) [inline Mathlib/Tactic/Linarith/NNRealPreprocessor.lean]:
```suggestion
By overwriting the behaviour of the placeholder preprocessor `nnrealToReal` (which does nothing
```

File: Mathlib/Tactic/Linarith/NNRealPreprocessor.lean [hunk 15]
```diff
@@ -0,0 +1,79 @@
...
+open Lean Std TreeSet
+open Elab Tactic Meta
+open Rify NNReal
+
+/--
+`isNNRealProp tp` is true iff `tp` is an inequality or equality between nonnegative real numbers
+or the negation thereof.
+-/
+partial def isNNRealProp (e : Expr) : MetaM Bool := succeeds do
+  let (_, _, .const ``NNReal [], _, _) ← e.ineqOrNotIneq? | failure
```
Comment (joneugster) [inline Mathlib/Tactic/Linarith/NNRealPreprocessor.lean]: I believe these could be superfluous (or at least written nicer) when using `~q(...)` from [quote4](https://github.com/leanprover-community/quote4), but consider this an optional suggestion

File: Mathlib/Tactic/Linarith/Preprocessing.lean [hunk 16]
```diff
@@ -389,12 +389,22 @@ def removeNe : GlobalBranchingPreprocessor where
   transform := removeNe_aux
 end removeNe
 
+/-- Definition overidden in `Mathlib.Tactic.Linarith.NNRealPreprocessor`. -/
+initialize nnrealToRealTransform : IO.Ref (List Expr → MetaM (List Expr)) ← IO.mkRef pure
+/--
```
Comment (joneugster) [inline Mathlib/Tactic/Linarith/Preprocessing.lean:395]:
```suggestion

/--
```

File: Mathlib/Tactic/Rify.lean (hunk 11 above)
Comment (joneugster) [reply Mathlib/Tactic/Rify.lean]: Seems to be applied 👍

**Review by joneugster — COMMENTED** [review]
Thank you for the PR! This is a cool addition and the PR already looks to be in good shape, thanks to @hrmacbeth 's reviewing.

I think it would be desirable to get an approval from Heather, if there is time for that. But in any case I think this PR will be able to get merged soon

File: Mathlib/Data/NNReal/Basic.lean (hunk 13 above)
Comment (DavidLedvinka) [reply Mathlib/Data/NNReal/Basic.lean]: These are needed for `rify` not `linarith`. The tests in `rify` do use them and it allows them to pass the analogous `rify` tests for `NNReal (without these it can't). As shown in these test this could be used to do some manual preprocessing to get linarith to solve goals with NNReal subtraction that it otherwise couldn't. Fwiw I think it could be possibly to upgrade both the Nat and NNReal preprocessors to handle these cases but its more complicated and out of scope for this PR.

Comment (DavidLedvinka) [reply Mathlib/Data/NNReal/Basic.lean]: I probably should have clarified though that I am also upgrading `rify` to handle NNReal (for use in linarith but also for its own right). I added it to the title.

File: MathlibTest/Linarith/Basic.lean
Comment (DavidLedvinka) [reply MathlibTest/Linarith/Basic.lean:1]: I guess there is also an argument for Basic.lean? I will use your suggestion for now.

Comment (grunweg) [reply MathlibTest/Linarith/Basic.lean:1]: If you're adding a new file `NNReal.lean`, in my eyes that's a good argument to use a more informative name (like `Basic.lean`) instead.

File: Mathlib/Tactic/Rify.lean [hunk 17]
```diff
@@ -7,12 +7,13 @@ module
 
 public import Mathlib.Data.Rat.Cast.Order
 public import Mathlib.Data.Real.Basic
-public import Mathlib.Tactic.Qify -- shake: keep (for `@[qify_simps]`)
+public import Mathlib.Tactic.Zify
+public import Mathlib.Tactic.Qify  -- shake: keep (for `@[qify_simps]`)
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Rify.lean]:
```suggestion
public import Mathlib.Tactic.Qify -- shake: keep (for `@[qify_simps]`)
```
Just to reduce the diff

**Review by hrmacbeth — APPROVED** [review]
LGTM, modulo any remaining suggestions of @joneugster

File: Mathlib/Tactic/Linarith/NNRealPreprocessor.lean (hunk 15 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/Linarith/NNRealPreprocessor.lean]: `Expr.ineqOrNotIneq?` covers six cases (<, ≤, = and their negations) so expressing this with `~q(...)` might be more verbose.

File: Mathlib/Data/NNReal/Basic.lean [hunk 18]
```diff
@@ -140,6 +140,15 @@ typeclass. For lemmas about subtraction and addition see lemmas about `OrderedSu
 theorem sub_div (a b c : ℝ≥0) : (a - b) / c = a / c - b / c :=
   tsub_div _ _ _
 
+@[norm_cast]
+protected theorem coe_sub_of_add_le {a b c : ℝ≥0} (h : a + c ≤ b) :
+    ((b - a : ℝ≥0) : ℝ) = b - a :=
+  NNReal.coe_sub <| (self_le_add_right _ c).trans h
```
Comment (JovanGerb) [inline Mathlib/Data/NNReal/Basic.lean]: Are you sure this is a valid `norm_cast` lemma? The loose `c` that doesn't appear in the equality makes me suspicious.

File: Mathlib/Tactic/Rify.lean [hunk 19]
```diff
@@ -78,11 +79,32 @@ macro_rules
     simp -decide only [zify_simps, qify_simps, rify_simps, push_cast, $args,*]
       $[at $location]?)
 
+/-- The `Simp.Context` generated by `rify` (with no optional arguments or local context). -/
+meta def mkRifyContext : MetaM Simp.Context := do
+  let result ← #[`zify_simps, `qify_simps, `rify_simps, `push_cast].mapM fun ext ↦ do
+    let some ext ← getSimpExtension? ext | failure
+    return (← ext.getTheorems)
```
Comment (JovanGerb) [inline Mathlib/Tactic/Rify.lean]:
```suggestion
    ext.getTheorems
```

File: Mathlib/Tactic/Rify.lean [hunk 20]
```diff
@@ -78,11 +79,32 @@ macro_rules
     simp -decide only [zify_simps, qify_simps, rify_simps, push_cast, $args,*]
       $[at $location]?)
 
+/-- The `Simp.Context` generated by `rify` (with no optional arguments or local context). -/
+meta def mkRifyContext : MetaM Simp.Context := do
```
Comment (JovanGerb) [inline Mathlib/Tactic/Rify.lean]:
```suggestion
def mkRifyContext : MetaM Simp.Context := do
```
You're already in a `meta` section

File: Mathlib/Tactic/Linarith/NNRealPreprocessor.lean (hunk 15 above)
Comment (JovanGerb) [inline Mathlib/Tactic/Linarith/NNRealPreprocessor.lean]:
```suggestion
  let (_, _, .const ``NNReal _, _, _) ← e.ineqOrNotIneq? | failure
```
This is the style used in the fuction below

File: Mathlib/Tactic/Linarith/NNRealPreprocessor.lean [hunk 21]
```diff
@@ -0,0 +1,79 @@
...
+unless this file is imported) `linarith` can still be used without importing `NNReal`.
+-/
+
+public meta section
+
+namespace Mathlib.Tactic.Linarith
+
+open Lean Std TreeSet
+open Elab Tactic Meta
+open Rify NNReal
```
Comment (JovanGerb) [inline Mathlib/Tactic/Linarith/NNRealPreprocessor.lean]:
```suggestion
open Lean Meta
```

File: Mathlib/Tactic/Linarith/NNRealPreprocessor.lean [hunk 22]
```diff
@@ -0,0 +1,79 @@
...
+`getNNRealComparisons e` returns a list of all subexpressions of `e` of the form `(x : ℝ)`.
+-/
+partial def getNNRealCoes (e : Expr) : List Expr :=
+  match isNNRealtoReal e with
+  | some x => [x]
+  | none => match e.getAppFnArgs with
+    | (``HAdd.hAdd, #[_, _, _, _, a, b]) => getNNRealCoes a ++ getNNRealCoes b
+    | (``HMul.hMul, #[_, _, _, _, a, b]) => getNNRealCoes a ++ getNNRealCoes b
+    | (``HSub.hSub, #[_, _, _, _, a, b]) => getNNRealCoes a ++ getNNRealCoes b
+    | (``HDiv.hDiv, #[_, _, _, _, a, b]) => getNNRealCoes a ++ getNNRealCoes b
```
Comment (JovanGerb) [inline Mathlib/Tactic/Linarith/NNRealPreprocessor.lean]:
```suggestion
    | (``HDiv.hDiv, #[_, _, _, _, a, b]) => getNNRealCoes a
```
If I understand the intentions correctly, we only want this function to return things that are relevant to linear arithmetic, so no divisors. Otherwise I'd also like to see support for other functions like `Inv.inv`.

Are there any other relevant operators that you're missing, e.g. `smul`?

**Review by JovanGerb — APPROVED** [review]

File: Mathlib/Tactic/Linarith/NNRealPreprocessor.lean [hunk 23]
```diff
@@ -0,0 +1,77 @@
...
+  try commitIfNoEx (mkAppM ``NNReal.coe_nonneg #[e])
+  catch e => do
+    trace[linarith] "Got exception when using `coe_nonneg` {e.toMessageData}"
+    return none
+
+initialize nnrealToRealTransform.set fun l => do
+  let l ← l.mapM fun e => do
+    let t ← whnfR (← instantiateMVars (← inferType e))
+    if ← isNNRealProp t then
+      return (← rifyProof e t).1
```
Comment (JovanGerb) [inline Mathlib/Tactic/Linarith/NNRealPreprocessor.lean]:
```suggestion
      return (← Rify.rifyProof e t).1
```
oops, I missed this one

File: Mathlib/Data/NNReal/Basic.lean (hunk 18 above)
Comment (DavidLedvinka) [reply Mathlib/Data/NNReal/Basic.lean]: You are right. These were copied from Zify but it seems only the second one is used in the examples.

Comment (JovanGerb) [reply Mathlib/Data/NNReal/Basic.lean]: Aha, in that case feel free to remove any analogous other lemmas.

Comment (DavidLedvinka) [reply Mathlib/Data/NNReal/Basic.lean]: I figured it probably makes more sense to do that in a separate PR so I just made #35601 to deprecate the analogous lemma.

File: Mathlib/Tactic/Linarith/NNRealPreprocessor.lean (hunk 22 above)
Comment (DavidLedvinka) [reply Mathlib/Tactic/Linarith/NNRealPreprocessor.lean]: I checked and it seems linarith does not currently handle `smul` (for any types) at the moment so probably best not to include it for now (I am sure it would be easy to add `smul` support in a future PR).

File: Mathlib/Data/NNReal/Basic.lean [hunk 24]
```diff
@@ -140,6 +140,10 @@ typeclass. For lemmas about subtraction and addition see lemmas about `OrderedSu
 theorem sub_div (a b c : ℝ≥0) : (a - b) / c = a / c - b / c :=
   tsub_div _ _ _
 
+@[norm_cast]
+protected theorem coe_sub_of_lt {a b : ℝ≥0} (h : a < b) :
```
Comment (JovanGerb) [inline Mathlib/Data/NNReal/Basic.lean:146]: Can you add a comment here saying why this lemma is needed? It looks a bit confusing as a weaker form of `NNReal.coe_sub`.

**Review by JovanGerb — COMMENTED** [review]
For the trick you to do add the preprocessor in a later file, wouldn't it be more natural to have
```
initialize defaultPreprocessors : IO.Ref (Array GlobalBranchingPreprocessor) ←
  IO.mkRef #[filterComparisons, removeNegations, natToInt, strengthenStrictInt,
    compWithZero, cancelDenoms]
```
And then in the later file, you can use `initialize` to push the NNReal preprocessor onto this array.
This way, the preprocessing can be extended in other ways in the future.

**Comment by DavidLedvinka** [comment]
> For the trick you to do add the preprocessor in a later file, wouldn't it be more natural to have
> 
> ```
> initialize defaultPreprocessors : IO.Ref (Array GlobalBranchingPreprocessor) ←
>   IO.mkRef #[filterComparisons, removeNegations, natToInt, strengthenStrictInt,
>     compWithZero, cancelDenoms]
> ```
> 
> And then in the later file, you can use `initialize` to push the NNReal preprocessor onto this array. This way, the preprocessing can be extended in other ways in the future.

I thought about this but the reason I decided against it was: 

a) I suspect there won't need to be that many uses of this trick
b) Order is important for preprocessors. 

It seems more convenient to see the order of everything up front given any subset is being used rather than make sure we are threading a bunch of preprocessors in separate files correctly.

**Comment by JovanGerb** [comment]
Aha, I didn't realize that their order was important. In that case I'm happy with the current implementation.

Thank you :tada:

maintainer merge

File: Mathlib/Data/NNReal/Basic.lean (hunk 18 above)
Comment (DavidLedvinka) [reply Mathlib/Data/NNReal/Basic.lean]: Sorry I realised I accidentally used my master branch so I closed it and made a new PR #35604
